US04322347
(2R,3S,5R,6R) 6-(4-Nitrobenzyloxycarbonyl)amino-2-carbamoyloxymethyl-2-methylpenam-3-carboxylic Acid p-Nitrobenzyl Ester
A mixture of (1S,3S,5R,6R) 6-(4-nitrobenzyloxycarbonyl)amino-2,2-dimethylpenam-3-carboxylic acid-1-oxide p-nitrobenzyl ester (8.19 g, 15.0 mmol), trichloroacetyl isocyanate (5.0 ml, 7.9 g, 42 mmol) and dioxane (75 ml) was refluxed under nitrogen for 3.5 hours and concentrated in vacuo to a light brown oil. The oil was stirred with warm methanol (150 ml) for 0.5 hour and the solution was decanted from a small amount of dark residue. The methanol solution was adjusted to pH 7.4 with 5% sodium bicarbonate and held at pH 7.4-7.5 with 3% sulfuric acid during a 2.0 hour stirring period. The mixture was then distributed between methylene chloride (250 ml) and water (100 ml). The organic layer was washed with water (100 ml), combined with a CH2Cl2 back-extract (100 ml), dried (4A molecular sieve), polish filtered, and concentrated in vacuo to a light brown oil.

reactant | (1S,3S,5R,6R) 6-(4-nitrobenzyloxycarbonyl)amino-2,2-dimethylpenam-3-carboxylic acid-1-oxide p-nitrobenzyl ester | 15.0 mmol, 8.19 g | [N+](=O)([O-])C1=CC=C(COC(=O)[C@H]2C([S@@]([C@H]3N2C([C@H]3NC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])=O)=O)(C)C)C=C1 | C23H22N4O10S
reactant | trichloroacetyl isocyanate | 42 mmol, 5.0 ml, 7.9 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | (2R,3S,5R,6R) 6-(4-Nitrobenzyloxycarbonyl)amino-2-carbamoyloxymethyl-2-methylpenam-3-carboxylic Acid p-Nitrobenzyl Ester | [N+](=O)([O-])C1=CC=C(COC(=O)[C@H]2[C@](S[C@H]3N2C([C@H]3NC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])=O)(C)COC(N)=O)C=C1 | C24H23N5O11S
